US07115611B2
A solution of 357 mg (1.16 mmol) [rac]-1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethanol and 0.09 ml (1.22 mmol) thionylchloride in 4 ml dichloromethane were stirred for 1 h at RT. The reaction mixture was concentrated under reduced pressure to provide 390 mg of pure [rac]-5-(1-chloro-ethyl)-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine.

reactant | [rac]-1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethanol | 1.16 mmol, 357 mg | C1(CC1)C1=NC(=NC=C1C(C)O)C1=CC=C(C=C1)C(F)(F)F | C16H15F3N2O
reactant | thionylchloride | 1.22 mmol, 0.09 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | [rac]-5-(1-chloro-ethyl)-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | 390 mg | ClC(C)C=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C16H14ClF3N2
